US05130406
I.27. Preparation of (tetrahydrofuran)-iron(II) hexafluoroantimonate [process e)]
1.0 g of (acetic acid)-iron(II) hexafluoroantimonate are suspended in 10 ml of THF and the suspension is refluxed for 5 minutes. After cooling to room temperature, the product is filtered off under an inert gas and washed with THF. 0.95 g of white, very hygroscopic product results.

reactant | (acetic acid)-iron(II) hexafluoroantimonate | 1.0 g | F[Sb-](F)(F)(F)(F)F.[Fe+2].C(C)(=O)O.F[Sb-](F)(F)(F)(F)F
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | (tetrahydrofuran)-iron(II) hexafluoroantimonate | F[Sb-](F)(F)(F)(F)F.[Fe+2].O1CCCC1.F[Sb-](F)(F)(F)(F)F | InChI=1S/C4H8O.12FH.Fe.2Sb/c1-2-4-5-3-1;;;;;;;;;;;;;;;/h1-4H2;12*1H;;;/q;;;;;;;;;;;;;+2;2*+5/p-12
